* Inverting amplifier — gain = -R_feedback / R_in
* Uses shipped LT1001 op-amp via LTspice's bundled LTC.lib
.lib LTC.lib

.param R_in       = 1k
.param R_feedback = 10k

V_in  in 0 SINE(0 100m 1k)
V_pos vcc 0 15
V_neg vee 0 -15

XU1 0 invnode vcc vee out LT1001      ; vin+ vin- V+ V- out
R_in        in     invnode  {R_in}
R_feedback  invnode out      {R_feedback}

.tran 5m
.meas TRAN vout_pk   MAX V(out)
.meas TRAN gain      PARAM vout_pk/0.1      ; linear-domain gain
.end
