* Parameter sweep — vary R_load, measure peak V(out) per step
* Produces a .raw with one dataset per step; .meas aggregates per step.
.param R_load = 1k

V1  in 0 PULSE(0 5 0 1u 1u 1m 2m)
R_source in out 100
R_load   out 0  {R_load}
C_load   out 0  10n

.tran 5m
.step param R_load list 100 330 1k 3.3k 10k
.meas TRAN vout_peak MAX V(out)
.end
