* RC low-pass — 1 kHz -3 dB corner; verify with sim run ... --solver ltspice
V1  in  0   AC 1 SINE(0 1 1k)
R1  in  out 1.6k
C1  out 0   100n
.ac dec 20 10 100k
.meas AC fc  WHEN Vdb(out)=-3
.meas AC gain MAX Vdb(out)
.end
