* Series RLC band-pass — output across R, resonant at fr = 1/(2 pi sqrt(LC)) ≈ 5.03 kHz
* AC sweep produces complex V(out); use sim_plugin_ltspice.lib.RawRead for magnitude/phase.
V1  in  0   AC 1
L1  in  a   10m
C1  a   out 100n
R1  out 0   50
.ac dec 50 100 100k
.meas AC peakmag MAX mag(V(out))
.meas AC fr      WHEN ph(V(out))=0 CROSS=1
.meas AC bw_3db_lo  WHEN mag(V(out))=peakmag*0.7071 CROSS=1
.meas AC bw_3db_hi  WHEN mag(V(out))=peakmag*0.7071 CROSS=LAST
.meas AC gain_5k FIND mag(V(out)) AT 5.03k
.end
